US04267193
N-(2-Carboxyethyl)-2,6-Dimethyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline
Combine N-(2-cyanoethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline (4.0 g, 12 mmol) with 350 ml 1.0 N NaOH. Reflux 2 hours, allow to cool, add concentrated HCl, and then solid NaHCO3. Extract with ether, dry and concentrate. Recrystallize from ether-hexane to give title compound as a solid product, m.p. 175°-176° C.

reactant | N-(2-cyanoethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline | 12 mmol, 4.0 g | C(#N)CCNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | C14H14F6N2O
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NaOH | 1.0 N, 350 ml | [OH-].[Na+]
product | N-(2-Carboxyethyl)-2,6-Dimethyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline | C(=O)(O)CCNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | C14H15F6NO3
